US08420863B2
Alkylation of 3-bromo-5-methoxybenzaldehyde with acetonitrile following the method used in Example 115 gave 3-(3-bromo-5-methoxyphenyl)-3-hydroxypropanenitrile as a pale yellow oil. Yield (4.1 g, 70%): 1H NMR (400 MHz, DMSO-d6) δ 7.16-7.15 (m, 1H), 7.04-7.03 (m, 1H), 6.97-6.96 (m, 1H), 6.04 (d, J=4.8 Hz, 1H), 4.87-4.83 (m, 1H), 3.74 (s, 3H), 2.89 (ABd, J=16.4, 5.2 Hz, 1H), 2.81 (ABd, J=16.8, 6.8 Hz, 1H).

reactant | 3-bromo-5-methoxybenzaldehyde | BrC=1C=C(C=O)C=C(C1)OC | C8H7BrO2
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-(3-bromo-5-methoxyphenyl)-3-hydroxypropanenitrile | BrC=1C=C(C=C(C1)OC)C(CC#N)O | C10H10BrNO2
